US08664431B2
5 g (22 mmol) of 2-hydroxy-9H-thioxanthen-9-one was dissolved in 200 ml refluxing acetone. 3.6 ml (3.5 g, 44 mmol) pyridine was added, followed by the addition of 5.6 g (44 mmol) 3-chloropropionyl chloride. The mixture was refluxed for 5 hours. The solvent was removed under reduced pressure, after cooling down to room temperature and the residue was dissolved in 200 ml methylene chloride. The methylene chloride was extracted with 150 ml of a 1 M Na2CO3 solution and 150 ml of a 0.1 N hydrochloric acid solution. The organic fraction was dried over MgSO4 and evaporated under reduced pressure. 3-chloro-propionic acid 9-oxo-9H-thioxanthen-2-yl ester was isolated by preparative column chromatography on a SVP D40 Merck NP column, using a gradient elution from methylene chloride (20 minutes isocratic elution) to methylene chloride/ethyl acetate 80/20 over 30 minutes and a flow rate of 50 ml/min. 0.414 g of 3-chloro-propionic acid 9-oxo-9H-thioxanthen-2-yl ester (6%) was isolated as a white crystalline compound.

reactant | 2-hydroxy-9H-thioxanthen-9-one | 22 mmol, 5 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | pyridine | 44 mmol, 3.6 ml, 3.5 g | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropionyl chloride | 44 mmol, 5.6 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-chloro-propionic acid 9-oxo-9H-thioxanthen-2-yl ester | O=C1C2=CC=CC=C2SC=2C=CC(=CC12)OC(CCCl)=O | C16H11ClO3S
